US05409956
Preparation of methyl(5-acetylindan-2-yl)acetate:
160 ml of methylene chloride was added with 52.9 g (0.388 mol) of anhydrous aluminum chloride, and further added with 40 ml of methylene chloride containing 25.03 g (0.132 mol) of methyl(indan-2-yl)acetate under ice-cooling. Subsequently, 13.1 ml (0.185 mol) of acetyl chloride was added thereto dropwise. Stirring was conducted for 40 minutes at the same temperature. The reaction mixture was poured into ice-water and the organic phase was collected. After washing and drying, the solvent was condensed under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:2) to obtain 27.8 g of an oily product. Yield: 91%

reactant | aluminum chloride | 0.388 mol, 52.9 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | methyl(indan-2-yl)acetate | COC(CC1CC2=CC=CC=C2C1)=O | C12H14O2
reactant | acetyl chloride | 0.185 mol, 13.1 ml | C(C)(=O)Cl | C2H3ClO
solvent | methylene chloride | 160 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 0.132 mol, 40 ml, 25.03 g | C(Cl)Cl | CH2Cl2
product | methyl(5-acetylindan-2-yl)acetate | 27.8 g, Yield: 91% | COC(CC1CC2=CC=C(C=C2C1)C(C)=O)=O | C14H16O3
